### PR TITLE
[Merged by Bors] - feat: `locallyIntegrableOn_smul_iff`

### PR DESCRIPTION
**Pull request by grunweg**
From Sobolev spaces. Written by (some unspecified subset of) Floris, Filippo and me.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/LocallyIntegrable.lean [hunk 1]
```diff
@@ -214,6 +214,25 @@ protected theorem LocallyIntegrableOn.sub
 protected theorem LocallyIntegrableOn.neg {f : X → E} (hf : LocallyIntegrableOn f s μ) :
     LocallyIntegrableOn (-f) s μ := fun x hx ↦ (hf x hx).neg
 
+@[simp] theorem _root_.locallyIntegrableOn_neg_iff {f : X → E} :
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/LocallyIntegrable.lean]:
```suggestion
@[simp] theorem locallyIntegrableOn_neg_iff {f : X → E} :
```

File: Mathlib/MeasureTheory/Function/LocallyIntegrable.lean [hunk 2]
```diff
@@ -34,7 +34,7 @@ variable {X Y ε ε' ε'' E F R : Type*} [MeasurableSpace X] [TopologicalSpace X
 variable [MeasurableSpace Y] [TopologicalSpace Y]
 variable [TopologicalSpace ε] [ContinuousENorm ε] [TopologicalSpace ε'] [ContinuousENorm ε']
   [TopologicalSpace ε''] [ESeminormedAddMonoid ε'']
-  [NormedAddCommGroup E] [NormedAddCommGroup F] {f g : X → ε} {μ ν : Measure X} {s : Set X}
+  [NormedAddCommGroup E] [NormedAddCommGroup F] {f g : X → ε} {μ : Measure X} {s : Set X}
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/LocallyIntegrable.lean]:
```suggestion
  [NormedAddCommGroup E] [NormedAddCommGroup F] {f g : X → ε} {μ ν : Measure X} {s : Set X}
```

File: Mathlib/MeasureTheory/Function/LocallyIntegrable.lean [hunk 3]
```diff
@@ -214,6 +214,25 @@ protected theorem LocallyIntegrableOn.sub
...
+  convert h.neg; simp
+
+-- TODO: generalise this to ENormed spaces, once there are suitable typeclasses
+protected theorem LocallyIntegrableOn.smul {𝕜 : Type*} [NormedField 𝕜] [NormedSpace 𝕜 E]
+    {f : X → E} (hf : LocallyIntegrableOn f s μ) (c : 𝕜) :
+    LocallyIntegrableOn (c • f) s μ := fun x hx ↦ (hf x hx).smul c
+
+-- See `locallyIntegrableOn_smul_iff` below for the fully general version.
+-- It is placed below to make use of `locallyIntegrableOn_zero`.
+theorem _root_.locallyIntegrableOn_smul_iff' {𝕜 : Type*} [NormedField 𝕜] [NormedSpace 𝕜 E]
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/LocallyIntegrable.lean]:
```suggestion
theorem locallyIntegrableOn_smul_iff' {𝕜 : Type*} [NormedField 𝕜] [NormedSpace 𝕜 E]
```

File: Mathlib/MeasureTheory/Function/LocallyIntegrable.lean [hunk 4]
```diff
@@ -362,6 +381,14 @@ theorem locallyIntegrable_zero : LocallyIntegrable (fun _ ↦ (0 : ε'')) μ :=
 theorem locallyIntegrableOn_zero : LocallyIntegrableOn (fun _ ↦ (0 : ε'')) s μ :=
   locallyIntegrable_zero.locallyIntegrableOn s
 
+@[simp]
+theorem _root_.locallyIntegrableOn_smul_iff {𝕜 : Type*} [NormedField 𝕜] [NormedSpace 𝕜 E]
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/LocallyIntegrable.lean]:
```suggestion
theorem locallyIntegrableOn_smul_iff {𝕜 : Type*} [NormedField 𝕜] [NormedSpace 𝕜 E]
```

File: Mathlib/MeasureTheory/Function/LocallyIntegrable.lean [hunk 5]
```diff
@@ -214,6 +214,25 @@ protected theorem LocallyIntegrableOn.sub
...
+  convert h.neg; simp
+
+-- TODO: generalise this to ENormed spaces, once there are suitable typeclasses
+protected theorem LocallyIntegrableOn.smul {𝕜 : Type*} [NormedField 𝕜] [NormedSpace 𝕜 E]
+    {f : X → E} (hf : LocallyIntegrableOn f s μ) (c : 𝕜) :
+    LocallyIntegrableOn (c • f) s μ := fun x hx ↦ (hf x hx).smul c
+
+-- See `locallyIntegrableOn_smul_iff` below for the fully general version.
+-- It is placed below to make use of `locallyIntegrableOn_zero`.
+theorem locallyIntegrableOn_smul_iff' {𝕜 : Type*} [NormedField 𝕜] [NormedSpace 𝕜 E]
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/LocallyIntegrable.lean]:
```suggestion
private theorem locallyIntegrableOn_smul_iff' {𝕜 : Type*} [NormedField 𝕜] [NormedSpace 𝕜 E]
```

**Comment by grunweg** [comment]
Updated the proofs with the new strategy (thanks for the suggestion). This is ready for another look!

File: Mathlib/MeasureTheory/Function/LocallyIntegrable.lean [hunk 6]
```diff
@@ -214,6 +214,23 @@ protected theorem LocallyIntegrableOn.sub
 protected theorem LocallyIntegrableOn.neg {f : X → E} (hf : LocallyIntegrableOn f s μ) :
     LocallyIntegrableOn (-f) s μ := fun x hx ↦ (hf x hx).neg
 
+@[simp] theorem locallyIntegrableOn_neg_iff {f : X → E} :
+    LocallyIntegrableOn (-f) s μ ↔ LocallyIntegrableOn f s μ := by
+  unfold LocallyIntegrableOn
+  simp_rw [MeasureTheory.integrableAtFilter_neg_iff]
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Function/LocallyIntegrable.lean:220]: Could we have this for `LocallyIntegrable` as well?

File: Mathlib/MeasureTheory/Function/LocallyIntegrable.lean [hunk 7]
```diff
@@ -214,6 +214,23 @@ protected theorem LocallyIntegrableOn.sub
...
+protected theorem LocallyIntegrableOn.smul {𝕜 : Type*} [NormedField 𝕜] [NormedSpace 𝕜 E]
+    {f : X → E} (hf : LocallyIntegrableOn f s μ) (c : 𝕜) :
+    LocallyIntegrableOn (c • f) s μ := fun x hx ↦ (hf x hx).smul c
+
+-- TODO: generalise this to ENormed spaces, once there are suitable typeclasses
+@[simp] theorem locallyIntegrableOn_smul_iff {𝕜 : Type*} [NormedField 𝕜] [NormedSpace 𝕜 E]
+    {f : X → E} (c : 𝕜) :
+    LocallyIntegrableOn (c • f) s μ ↔ c = 0 ∨ LocallyIntegrableOn f s μ := by
+  unfold LocallyIntegrableOn
+  grind [integrableAtFilter_smul_iff]
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Function/LocallyIntegrable.lean:232]: Same

File: Mathlib/MeasureTheory/Function/LocallyIntegrable.lean [hunk 8]
```diff
@@ -214,6 +214,23 @@ protected theorem LocallyIntegrableOn.sub
...
 
+@[simp] theorem locallyIntegrableOn_neg_iff {f : X → E} :
+    LocallyIntegrableOn (-f) s μ ↔ LocallyIntegrableOn f s μ := by
+  unfold LocallyIntegrableOn
+  simp_rw [MeasureTheory.integrableAtFilter_neg_iff]
+
+-- TODO: generalise this to ENormed spaces, once there are suitable typeclasses
+protected theorem LocallyIntegrableOn.smul {𝕜 : Type*} [NormedField 𝕜] [NormedSpace 𝕜 E]
+    {f : X → E} (hf : LocallyIntegrableOn f s μ) (c : 𝕜) :
+    LocallyIntegrableOn (c • f) s μ := fun x hx ↦ (hf x hx).smul c
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Function/LocallyIntegrable.lean]:
```suggestion
  LocallyIntegrableOn (c • f) s μ := fun x hx ↦ (hf x hx).smul c
```

**Comment by grunweg** [comment]
-awaiting-author

File: Mathlib/MeasureTheory/Integral/IntegrableOn.lean [hunk 9]
```diff
@@ -564,6 +574,21 @@ protected theorem IntegrableAtFilter.smul {𝕜 : Type*} [NormedAddCommGroup 
   rcases hf with ⟨s, sl, hs⟩
   exact ⟨s, sl, hs.smul c⟩
 
+-- See `integrableAtFilter_smul_iff` below for the fully general version.
+private theorem integrableAtFilter_smul_iff' {𝕜 : Type*} [NormedField 𝕜] [NormedSpace 𝕜 E]
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Integral/IntegrableOn.lean:578]: Sorry, somehow I misread this yesterday. If you want to have this a public lemma because it's simpler to use (because there's no extra `c = 0 ∨`) you can add it back (and add the `locallyIntegrable` consequence). If not then that's good as well.

**Comment by ADedecker** [comment]
Thanks!

bors d+

File: Mathlib/MeasureTheory/Integral/IntegrableOn.lean (hunk 9 above)
Comment (grunweg) [reply Mathlib/MeasureTheory/Integral/IntegrableOn.lean:578]: Thanks! I don't remember right now if that lemma was needed; it seems we didn't eventually use it on the Sobolev branch. I'll leave it as-is for now, and will add it back if needed.

**Comment by grunweg** [comment]
Thanks for the quick review!
bors merge
